US06063810
14 mg of tetrabutylammonium fluoride and 1.22 ml of trifluoromethyltrimethylsilane, dropwise, are added to a solution, cooled to 0° C. with an ice bath, of 1.58 g (6.6 mmol) of 2-formyl-3-methyl-7-bromobenzofuran in 60 ml of THF. The solution is left stirring for 30 min at 0° C. and then for 1 h at room temperature and a solution of 6 ml of THF and of 3 ml of hydrochloric acid (3M) is added. Stirring is continued for 2 h at room temperature, 100 ml of water are added and extraction is carried out with ethyl acetate (3×60 ml). The organic phases are combined, dried over magnesium sulphate and concentrated. 198 g (Yield: 97%) of 2-(2,2,2-trifluoro-1-hydroxyethyl)-3-methyl-7-bromobenzofuran are obtained--M.p.: 93° C.

reactant | tetrabutylammonium fluoride | 14 mg | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | trifluoromethyltrimethylsilane | 1.22 ml | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | 2-formyl-3-methyl-7-bromobenzofuran | 6.6 mmol, 1.58 g | C(=O)C=1OC2=C(C1C)C=CC=C2Br | C10H7BrO2
reactant | hydrochloric acid | 3M, 3 ml | Cl | ClH
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 2-(2,2,2-trifluoro-1-hydroxyethyl)-3-methyl-7-bromobenzofuran | 198 g, Yield: 97% | FC(C(O)C=1OC2=C(C1C)C=CC=C2Br)(F)F | C11H8BrF3O2
